US04289774
18 g of bromine is added dropwise, with stirring, to a solution of 28.2 g of 5-methyl-6-(4'-fluoro-4-biphenyl-yl)-2,3,4,5-tetrahydropyridazin-3-one in 500 ml of acetic acid at 100°; the mixture is then heated for an additional 15 minutes at 100°, cooled and filtered. 5-Methyl-6-(4'-fluoro-4-biphenylyl)-2,3-dihydropyridazin-3-one is obtained. m.p. 245°-247°.

reactant | bromine | 18 g | BrBr | Br2
reactant | 5-methyl-6-(4'-fluoro-4-biphenyl-yl)-2,3,4,5-tetrahydropyridazin-3-one | 28.2 g | CC1CC(NN=C1C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C17H15FN2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 5-Methyl-6-(4'-fluoro-4-biphenylyl)-2,3-dihydropyridazin-3-one | CC1=CC(NN=C1C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C17H13FN2O
